US07452909B2
4-[1-(2-Chloro-pyridin-5-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-chloro-pyridine
The title compound, MS: m/e=343.1 (M+H30), was prepared in accordance with the general method of example 1 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-chloro-5-chloromethyl-pyridine.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2-chloro-5-chloromethyl-pyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
product | 4-[1-(2-Chloro-pyridin-5-ylmethyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-chloro-pyridine | ClC1=NC=C(C=C1)CN1C(=NC(=C1)C#CC1=CC(=NC=C1)Cl)C | C17H12Cl2N4
